US05066669
224 g of 3-thiophenecarbaldehyde and 265 g of methyl orthoformate are dissolved in 200 ml of methanol. One g of strongly acidic ion-exchange resin Amberlite IR-120(H+) [manufactured by Rohm & Haas] is added thereto, and the mixture is refluxed with heating for 2 hours. The resin is separated by filtration, and the filtrate is condensed under reduced pressure. The residue is distilled to give 294 g of 3-dimethoxymethylthiophene.

reactant | 3-thiophenecarbaldehyde | 224 g | S1C=C(C=C1)C=O | C5H4OS
reactant | methyl orthoformate | 265 g | C(OC)([O-])[O-]
reactant | methanol | 200 ml | CO | CH4O
product | 3-dimethoxymethylthiophene | 294 g | COC(C1=CSC=C1)OC | C7H10O2S
